US07705156B2
2-Chloro-5-(3-trimethylsilanyloxycyclopent-2-enyl)pyridine (0.58 g, 2.2 mmol) was dissolved in THF (10 mL) in a 100 mL round bottom flask and treated with 1N HCl (2 mL) with stirring at room temperature. After 1 h, the mixture was diluted with EtOAc and sat. NaHCO3 and the layers separated. The aqueous phase was extracted with EtOAc and the combined organic layers dried (Na2SO4), filtered, concentrated, and purified by flash silica gel chromatography (hexanes:EtOAc/2:1) to give 3-(6-chloropyridin-3-yl)cyclopentanone (0.16 g, 37%) as a dark oil: LC/MS (ESI) m/z 195, 1H NMR (300 MHz, CDCl3) δ 8.31 (d, 1H, J=2.7 Hz), 7.54 (dd, 1H, J=8.4, 2.7 Hz), 7.31 (d, 1H, J=8.4 Hz), 3.43 (m, 1H), 2.70 (m, 1H), 2.56-2.22 (m, 4H), 1.97 (m, 1H).

reactant | 2-Chloro-5-(3-trimethylsilanyloxycyclopent-2-enyl)pyridine | 2.2 mmol, 0.58 g | ClC1=NC=C(C=C1)C1C=C(CC1)O[Si](C)(C)C | C13H18ClNOSi
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(6-chloropyridin-3-yl)cyclopentanone | 0.16 g, 37% | ClC1=CC=C(C=N1)C1CC(CC1)=O | C10H10ClNO
